US04496560
2-Benzhydryloxycarbonyl-3-(2-dimethylamino-thiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.4 g) is treated with formic acid (25 cc) in accordance with the working method described in Example 17, and 2-carboxy-3-(2-dimethylamino-thiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.05 g) is obtained, as the inner salt, in the form of a yellow solid.

reactant | 2-Benzhydryloxycarbonyl-3-(2-dimethylamino-thiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)N(C)C)NC(CC=1SC=CC1)=O)=O | C31H28N4O4S3
solvent | formic acid | 25 cc | C(=O)O | CH2O2
product | 2-carboxy-3-(2-dimethylamino-thiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.05 g | C(=O)(O)C=1N2C(C(C2SCC1C1=CN=C(S1)N(C)C)NC(CC=1SC=CC1)=O)=O | C18H18N4O4S3
